datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8]([C:9](=[C:10]([H:17])[H:18])[H:16])=[C:11]([C:12]([H:20])([H:21])[H:22])[H:19])[H:15])([H:13])[H:14]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:8]([C:7](=[C:6]([H:13])[H:14])[H:15])([C:9](=[C:10]([H:17])[H:18])[H:16])[C:11]([C:12]([H:20])([H:21])[H:22])[H:19])[H:3],48.4926
[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([O:3][O:4][H:15])[C:5]([O:6][H:17])([O:7][O:8])[H:16])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([O:3][O:4])[C:5]([O:6][H:17])([O:7][O:8][H:15])[H:16])([H:9])([H:10])[H:11],68.4084
[C:3](=[C:4]([H:6])[H:7])[H:5].[O:0]([H:1])[H:2]>>[H:1][C:3](=[C:4]([H:6])[H:7])[H:5].[O:0][H:2],62.1742
[C:0]([C:1](=[C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5]>>[C:0]([C:1]=[C:2]([C:3]([H:8])([H:9])[H:10])[H:7])([H:4])([H:5])[H:6],255.224
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5]([C:6]([C:7]([H:14])([H:15])[H:16])([O:8][O:9])[H:13])([H:10])([H:11])[H:12]>>[C:0]([H:2])([H:3])[H:4].[H:1][O:9][O:8][C:6]([C:5]([H:10])([H:11])[H:12])([C:7]([H:14])([H:15])[H:16])[H:13],103.09376
[C:0]([C:1]=[O:2])([H:3])([H:4])[H:5].[H:6]>>[C:0](=[C:1]=[O:2])([H:4])[H:5].[H:3][H:6],0.0
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[C:12]([C:13]([C:14]([H:20])([H:21])[H:22])([C:15]([H:23])([H:24])[H:25])[S:16][H:26])([H:17])([H:18])[H:19]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])([C:3]([H:9])([H:10])[H:11])[S:16][C:13]([C:12]([H:17])([H:18])[H:19])([C:14]([H:20])([H:21])[H:22])[C:15]([H:23])([H:24])[H:25])([H:4])([H:5])[H:26],169.034
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:18])([H:19])[H:20])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])[H:9])([H:7])[H:8].[O:21][O:22]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:19])[H:20])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])[H:9])([H:7])[H:8].[H:18][O:21][O:22],213.09112
[C:0]([C:1](=[C:2]([H:8])[H:9])[C:3](=[C:4]([C:5]([H:12])([H:13])[H:14])[H:11])[H:10])([H:6])[H:7]>>[C:0]([C:1](=[C:2]([H:8])[H:9])[C:3](=[C:4]([C:5]([H:13])[H:14])[H:11])[H:10])([H:6])([H:7])[H:12],100.416
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7]([S:8][H:11])([H:9])[H:10]>>[C:0](=[C:1]([S:2])[H:5])([H:3])[H:4].[H:6][C:7]([S:8][H:11])([H:9])[H:10],-2.092
[C:0](#[C:1][C:2](=[S:3])[H:5])[H:4].[C:6](=[C:7]([C:8]=[S:9])[H:12])([H:10])[H:11]>>[C:0](#[C:1][C:2]=[S:3])[H:4].[H:5][C:8]([C:7](=[C:6]([H:10])[H:11])[H:12])=[S:9],125.562
[C:0](#[C:1][C:2]([C:3]#[C:4][H:13])=[C:5]([c:6]1[c:7]([H:15])[c:8]([H:16])[c:9]([H:17])[c:10]([H:18])[c:11]1[H:19])[H:14])[H:12].[H:20]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:13])([C:5]([c:6]1[c:7]([H:15])[c:8]([H:16])[c:9]([H:17])[c:10]([H:18])[c:11]1[H:19])[H:14])[H:20])[H:12],22.761
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[C:15](=[C:16][C:17](=[S:18])[H:21])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:7])([H:5])[H:6].[H:8][C:16](=[C:15]([H:19])[H:20])[C:17](=[S:18])[H:21],54.392
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[H:7])[H:6])[H:5].[C:11]([C:12]([H:15])([H:16])[H:17])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])[H:7])([H:6])[C:11]([C:12]([H:15])([H:16])[H:17])([H:13])[H:14])[H:5],23.4722
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:6])[H:5].[C:13](=[S:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:5].[H:6][C:13](=[S:14])[H:15],38.4928
[C:0]([N:1][C:2]([H:6])([H:7])[H:8])([H:3])([H:4])[H:5].[O:9][H:10]>>[C:0](=[N:1][C:2]([H:6])([H:7])[H:8])([H:4])[H:5].[H:3][O:9][H:10],0.0
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:3])([H:4])[H:5].[H:10]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:4])[H:5].[H:3][H:10],0.0
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11]([C:12]([H:19])([H:20])[H:21])([C:13](=[C:14]([H:23])[H:24])[H:22])[H:18])[H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[H:18])[H:4].[C:9](=[C:10]([C:11]([C:12]([H:19])([H:20])[H:21])[C:13](=[C:14]([H:23])[H:24])[H:22])[H:17])([H:15])[H:16],0.0
[C:0]([C:1]=[O:2])([H:3])([H:4])[H:5].[C:6]([H:7])([H:8])[H:9]>>[C:0](=[C:1]=[O:2])([H:4])[H:5].[H:3][C:6]([H:7])([H:8])[H:9],0.0
[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[C:15]([c:16]1[c:17]([H:24])[c:18]([H:25])[c:19]([H:26])[c:20]([H:27])[c:21]1[H:28])([H:22])[H:23]>>[C:0]([C:1]1([C:15]([c:16]2[c:17]([H:24])[c:18]([H:25])[c:19]([H:26])[c:20]([H:27])[c:21]2[H:28])([H:22])[H:23])[C:2]([H:10])[C:3]([H:11])=[C:4]([H:12])[C:5]([H:13])=[C:6]1[H:14])([H:7])([H:8])[H:9],49.7678
[C:0](=[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([H:13])[H:14])([H:11])[H:12])[C:5]([C:6]([C:7]([C:8]([H:24])([H:25])[H:26])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:9])[H:10]>>[C:0](=[C:1]([C:2]([H:11])[H:12])[C:5]([C:6]([C:7]([C:8]([H:24])([H:25])[H:26])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:9])[H:10].[C:3]([C:4]([H:15])([H:16])[H:17])([H:13])[H:14],313.624272
